US08609656B2
(S)-4-Methyl-2-(methylamino)pentanoic acid (9-(4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl)-9H-purin-6-yl)amide hydrochloride (Table 1, Compound No. 106)
The title compound can be synthesized from 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride and N-methyl-tert-butoxycarbonyl-L-leucine by using the same method as in Example 96.

reactant | 1-[4-(6-aminopurin-9-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)urea hydrochloride | Cl.NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | N-methyl-tert-butoxycarbonyl-L-leucine | CN([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C12H23NO4
product | (S)-4-Methyl-2-(methylamino)pentanoic acid (9-(4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl)-9H-purin-6-yl)amide hydrochloride | Cl.ClC1=C(C=C(C=C1)NC(NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)NC([C@H](CC(C)C)NC)=O)=O)C(F)(F)F | InChI=1S/C26H26ClF3N8O2.ClH/c1-14(2)10-20(31-3)24(39)37-22-21-23(33-12-32-22)38(13-34-21)17-7-4-15(5-8-17)35-25(40)36-16-6-9-19(27)18(11-16)26(28,29)30;/h4-9,11-14,20,31H,10H2,1-3H3,(H2,35,36,40)(H,32,33,37,39);1H/t20-;/m0./s1
